US08486967B2
c) N3-(3,4-Difluorophenyl)-N3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-4H-1,2,4-triazole-3,5-diamine
To a solution of (Z)-phenyl N′-cyano-N-(3,4-difluorophenyl)-N-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)carbamimidate (73 mg, 176 μmol) in methanol (0.5 mL) was added hydrazine hydrate 25% in water (35.2 mg, 34.8 μl, 176 μmol). The reaction was stirred at room temperature over night. The solvent was evaporated under reduced pressure and the residue purified by column chromatography on silica gel using methylene chloride/methanol 19:1 (v/v) as eluent. The title compound was obtained as a light yellow viscous oil (46 mg, 74%).

reactant | (Z)-phenyl N′-cyano-N-(3,4-difluorophenyl)-N-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)carbamimidate | 176 μmol, 73 mg | C(#N)\N=C(\N(CCCOC1OCCCC1)C1=CC(=C(C=C1)F)F)/OC1=CC=CC=C1 | C22H23F2N3O3
reactant | hydrazine hydrate | O.NN
reactant | water | 176 μmol, 34.8 μl, 35.2 mg | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
product | N3-(3,4-Difluorophenyl)-N3-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-4H-1,2,4-triazole-3,5-diamine | FC=1C=C(C=CC1F)N(C1=NN=C(N1)N)CCCOC1OCCCC1 | C16H21F2N5O2
